US08754226B2
(R)-tert-Butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (Preparation D; 0.20 g, 0.55 mmol) was added to a mixture of methyl 5-hydroxypicolinate (0.10 g, 0.66 mmol), and potassium carbonate (0.099 g, 0.72 mmol) in DMF (1.6 mL). The mixture was stirred at 60° C. overnight and then cooled to ambient temperature. The mixture was partitioned between saturated aqueous NH4Cl (40 mL) and EtOAc (100 mL). The organic phase was washed successively with water (40 mL), water (40 mL) and brine (40 mL). The combined organic phases were dried over MgSO4, filtered and concentrated. The residue was purified on silica (eluting with EtOAc) to afford (S)-methyl 5-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)picolinate (0.19 g, 0.45 mmol, 81%).

reactant | (R)-tert-Butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.55 mmol, 0.20 g | CS(=O)(=O)O[C@H]1C(N(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H26N2O6S
reactant | methyl 5-hydroxypicolinate | 0.66 mmol, 0.10 g | OC=1C=CC(=NC1)C(=O)OC | C7H7NO3
reactant | potassium carbonate | 0.72 mmol, 0.099 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
product | (S)-methyl 5-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-oxopyrrolidin-3-yloxy)picolinate | 0.45 mmol, 0.19 g, 81% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@H](CC1)OC=1C=CC(=NC1)C(=O)OC)=O | C21H29N3O6
